US04576946
(a) 3-HYDRAZINO 4-METHYL 6-PHENYL PYRIDAZINE
The mixture of 5 g of 3-chloro 4-methyl 6-phenyl pyridazine and 12 ml of hydrazine hydrate is taken to reflux. After one hour thirty minutes, the reaction medium is left to cool. A solid separates, which is drained and washed with a little water. The product is recrystallized in the mixture of isopropanol-isopropyl ether. Weight 4.5 g. m.p.: 162° C.

reactant | 3-chloro 4-methyl 6-phenyl pyridazine | 5 g | ClC=1N=NC(=CC1C)C1=CC=CC=C1 | C11H9ClN2
reactant | hydrazine hydrate | 12 ml | O.NN
product | 3-HYDRAZINO 4-METHYL 6-PHENYL PYRIDAZINE | N(N)C=1N=NC(=CC1C)C1=CC=CC=C1 | C11H12N4
